US04256757
(1) 8-bromo-2-octynoic acid methyl ester
To a solution of 1.5 ml of diisopropylamine in 75 ml of tetrahydrofuran were added dropwise 135 ml of 1.5 M solution of butyl lithium in hexane, 75 ml of hexamethylphosphoramide (HMPA) and 6.15 ml of propiolic acid, successively, at -50° C., the mixture was allowed to heat to -10° C. over a period of 2 hours. To it was added dropwise 27.2 ml of 1,5-dibromopentane at -25° to -30° C., the solution allowed to heat to room temperature over a period of 2 hours, and stirred for one hour. The reaction mixture was poured into 500 ml of ice-water, extracted with methylene chloride, the extract washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in diethyl ether, there was added diazomethane-etherate until the solution was coloured pale yellow. After concentration under reduced pressure, the residue was purified by column chromatography on silica gel using chloroform as eluent to give 4.05 g of the subtitle compound having the following physical characteristics:

reactant | diisopropylamine | 1.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dibromopentane | 27.2 ml | BrCCCCCBr | C5H10Br2
reactant | propiolic acid | 6.15 ml | C(C#C)(=O)O | C3H2O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexamethylphosphoramide | 75 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 8-bromo-2-octynoic acid methyl ester | 4.05 g | COC(C#CCCCCCBr)=O | C9H13BrO2
